US04855301
(B) 1,4-Dihydro-2-[[(4-methoxyphenyl)methyl]thio]-6-methyl-4-(3-nitrophenyl)-5-pyrimidinecarboxylic acid, methyl ester
A solution of 2-[(3-nitrophenyl)methylene]-3-oxobutanoic acid, methyl ester (5.0 g, 0.02 mole) in 20 ml of dimethylformamide under argon at room temperature was treated with S-(4-methoxybenzyl)thiopseudourea, hydrochloride (4.65 g, 0.02 mole) and sodium acetate (1.64 g, 0.02 mole). The mixture was then heated at 65±5° C. for 3 hours. Upon cooling, ethyl acetate was added and a small amount of solids were filtered. The filtrate was washed with water (twice), aqueous sodium bicarbonate and saturated brine. The aqueous washes were extracted with fresh ethyl acetate. The combined filtrate and washings were dried (magnesium sulfate) and concentrated in vacuo to give about 9 g of crude product. Crystallization from acetone-isopropyl ether gave 6.8 g of product, melting point 125°-127.5° C., tlc, silica gel, ethyl acetate/hexane (1:1), Rf =0.48.

reactant | 2-[(3-nitrophenyl)methylene]-3-oxobutanoic acid, methyl ester | 0.02 mole, 5.0 g | [N+](=O)([O-])C=1C=C(C=CC1)C=C(C(=O)OC)C(C)=O | C12H11NO5
reactant | S-(4-methoxybenzyl)thiopseudourea, hydrochloride | 0.02 mole, 4.65 g | Cl.COC1=CC=C(CSC(N)=N)C=C1
reactant | sodium acetate | 0.02 mole, 1.64 g | C(C)(=O)[O-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1,4-Dihydro-2-[[(4-methoxyphenyl)methyl]thio]-6-methyl-4-(3-nitrophenyl)-5-pyrimidinecarboxylic acid, methyl ester | 6.8 g | COC1=CC=C(C=C1)CSC=1NC(=C(C(N1)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC)C | C21H21N3O5S
